US09062092B2
Compound 43a. [1,4]Dioxane-2-carboxylic acid methyl ester
A solution of [1,4]dioxane-2-carboxylic acid (supplied by Enamine Ltd.), (2.90 g, 22.0 mmol) in N,N-dimethylformamide (15 mL) was stirred at room temperature. Potassium carbonate (6.07 g, 44.0 mmol) was added and the suspension was stirred at 5° C. Iodomethane (6.25 g, 2.75 mL, 44.0 mmol) was added dropwise and the reaction mixture was stirred at room temperature for 24 h. Water and brine were added and the mixture was extracted with diethyl ether. The aqueous layer was saturated with sodium chloride and the mixture was extracted with ethyl acetate (3×). The organic extracts were combined, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography using a gradient of pentane/diethyl ether 4:1 to 1:1 to afford the title compound (3.06 g, 95%) as a volatile, pale yellow oil. 1H NMR (300 MHz, CDCl3) δ 3.68-3.78 (m, 4H), 3.81 (s, 3H), 3.97-4.05 (m, 2H), 4.29 (dd, J=8.5, 3.1 Hz, 1H). LCMS (m/z) 169.2 [M+Na], Tr=0.69 min.

reactant | [1,4]dioxane-2-carboxylic acid | 22.0 mmol, 2.90 g | O1C(COCC1)C(=O)O | C5H8O4
reactant | Potassium carbonate | 44.0 mmol, 6.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | Iodomethane | 44.0 mmol, 2.75 mL, 6.25 g | IC | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | [1,4]Dioxane-2-carboxylic acid methyl ester | 3.06 g, 95% | COC(=O)C1OCCOC1 | C6H10O4
